### PR TITLE
feat: add lemmas about `List.scanr`

### PR DESCRIPTION
**Pull request by vlad902**
I add basic lemmas to reason about `List.scanr`, and slightly clean-up the file and add some basic lemmas to keep the API unified with the one for `List.scanl`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Scan.lean [hunk 1]
```diff
@@ -74,17 +88,70 @@ theorem getElem_succ_scanl {i : ℕ} (h : i + 1 < (scanl f b l).length) :
...
+  cases l <;> simp
+
+@[simp]
+theorem head_scanr : (scanr f b l).head scanr_ne_nil = foldr f b l := by
+  cases l <;> simp
+
+theorem tail_scanr (h : 0 < l.length) : (scanr f b l).tail = scanr f b l.tail := by
+  induction l <;> simp_all
+
+theorem drop_scanr {i : ℕ} (h : i < l.length + 1) :
```
Comment (b-mehta) [inline Mathlib/Data/List/Scan.lean:134]:
```suggestion
theorem drop_scanr {i : ℕ} (h : i ≤ l.length) :
```
It looks to me like this makes more sense, unless there's some strong reason why `<` or `+1` are really needed here?

File: Mathlib/Data/List/Scan.lean [hunk 2]
```diff
@@ -74,17 +88,70 @@ theorem getElem_succ_scanl {i : ℕ} (h : i + 1 < (scanl f b l).length) :
...
+  | succ i ih =>
+      rw [← drop_drop]
+      simp [ih (by omega), tail_scanr (l := l.drop i) (by rw [length_drop]; omega)]
+
+theorem getElem_scanr {i : ℕ} (h : i < l.length + 1) :
+    (scanr f b l)[i]'(by simp [h]) = foldr f b (l.drop i) := by
+  induction l generalizing i with
+  | nil => simp [h]
+  | cons head tail ih =>
+      by_cases h' : i = 0
```
Comment (b-mehta) [inline Mathlib/Data/List/Scan.lean:147]: A common pattern we use is `obtain rfl | h' := eq_or_ne i 0` for this, which might be nice to use here too

**Review by b-mehta — APPROVED** [review]
This looks reasonable, I've left a couple of comments above. Feel free to request my final review once they're addressed!

File: Mathlib/Data/List/Scan.lean (hunk 1 above)
Comment (vlad902) [reply Mathlib/Data/List/Scan.lean]: I've committed this change. I wasn't sure if you also wanted this change in the hypotheses below, where I do think the `lt` version makes slightly more sense because it's used in proofs about array indexing which are relative to `lt` instead of `le`, though I don't really care about adding an additional `lt_succ` to the simp list if you think it's a better choice.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by vlad902** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26838
